US07402680B2
2-Cyclopropyl-3-phenyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene
The title compound (128 mg) was prepared according to Example 263 using 208 mg of 2-cyclopropyl-3-trifluoromethanesulfonyloxy-4,5,7,8-tetrahydro-2H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester and 84 mg of phenylboronic acid. MS (ESI): exact mass calculated for C16H19N3, 253.16; found, m/z 254.4 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.57-7.44 (m, 5H), 3.57-3.54 (m, 1H), 3.42-3.40 (m, 2H), 3.17-3.14 (m, 2H), 2.93-2.84 (m, 2H), 0.91-0.85 (m, 4H).

reactant | 2-cyclopropyl-3-trifluoromethanesulfonyloxy-4,5,7,8-tetrahydro-2H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester | 208 mg | C(C)(C)(C)OC(=O)N1CCC2=C(N(N=C2CC1)C1CC1)OS(=O)(=O)C(F)(F)F | C16H22F3N3O5S
reactant | phenylboronic acid | 84 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-Cyclopropyl-3-phenyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene | 128 mg | C1(CC1)N1N=C2CCNCCC2=C1C1=CC=CC=C1 | C16H19N3
